US07314888B1
In 12 ml of tetrahydrofuran is dissolved 0.60 g of benzyl (2S,4R)-2-(4-methyl-1-pentenyl)-4-(tetrahydro-2H-pyran-2-yloxy)-1-pyrrolidinecarboxylate, to which is added 12 ml of 6 mol/L hydrochloric acid. The mixture thus obtained is stirred at ambient temperature for 2 hours. A mixture of chloroform and water is added to the reaction mixture, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=2:1) to obtain 0.43 g of benzyl (2S,4R)-4-hydroxy-2-(4-methyl-1-pentenyl)-1-pyrrolidinecarboxylate as a light yellow oily product.

reactant | benzyl (2S,4R)-2-(4-methyl-1-pentenyl)-4-(tetrahydro-2H-pyran-2-yloxy)-1-pyrrolidinecarboxylate | 0.60 g | CC(CC=C[C@H]1N(C[C@@H](C1)OC1OCCCC1)C(=O)OCC1=CC=CC=C1)C | C23H33NO4
reactant | hydrochloric acid | 6 mol/L, 12 ml | Cl | ClH
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | water | O | H2O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | benzyl (2S,4R)-4-hydroxy-2-(4-methyl-1-pentenyl)-1-pyrrolidinecarboxylate | 0.43 g | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=CC=C1)C=CCC(C)C | C18H25NO3
